US04663453
9-Bromo-6-(4-phenylmethyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A stirred mixture of 7.88 g (0.0250 mole) of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-one and 1200 ml of toluene was heated under nitrogen until a solution resulted. Then there was added 44.1 g (0.250 mole) of N-benzylpiperazine, followed by 14.2 g (0.0750 mole) of titanium tetrachloride. The mixture was heated under reflux for 3 hours, cooled to room temperature and treated with 500 ml of 2N sodium hydroxide. After stirring vigorously for 15 minutes, the layers were separated. The aqueous phase was extracted further with 300 ml of toluene. The toluene layers were combined, washed once with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was taken up in 50 ml of hot methanol, from which 7.00 g (59%) of product crystallized. Recrystallization from a solution of dichloromethane (10 ml) to which methanol (50 ml) was added afforded the analytical sample, mp 129°-131° C.

reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-one | 0.0250 mole, 7.88 g | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C15H11BrN2O
reactant | N-benzylpiperazine | 0.250 mole, 44.1 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
catalyst | titanium tetrachloride | 0.0750 mole, 14.2 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-6-(4-phenylmethyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | BrC1=CC2=C(N3C4=C(C(=N2)N2CCN(CC2)CC2=CC=CC=C2)C=CC=C4CC3)C=C1 | C26H25BrN4
